US06197770B1
Preparation of 2-{[4′-Methoxy-(1,1′-biphenyl)-4-yl]-sulfonyl}-amino-5-(3-morpholinophenyl)-pent-4-ynoic acid
Methyl 2-{[4′-methoxy-(1,1′-biphenyl)-4-yl]-sulfonyl}-amino-5-(3-morpholino-phenyl)-pent-4-ynoate: The starting sulfonamide 5b (367 mg, 0.66 mmol) is converted to the title compound with 4-methoxyphenylboronic acid (151 mg. 1.14 mmol) as described. for compound 3b. The crude product is adsorbed onto silica and then eluted through a column of flash silica with Hexanes:EtOAc (4:1 to 1:1) to give a pale orange-yellow, foamy solid.

reactant | Methyl 2-{[4′-methoxy-(1,1′-biphenyl)-4-yl]-sulfonyl}-amino-5-(3-morpholino-phenyl)-pent-4-ynoate | COC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C(C(=O)OC)(CC#CC1=CC(=CC=C1)N1CCOCC1)N | C29H30N2O6S
reactant | 4-methoxyphenylboronic acid | 1.14 mmol, 151 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
product | 2-{[4′-Methoxy-(1,1′-biphenyl)-4-yl]-sulfonyl}-amino-5-(3-morpholinophenyl)-pent-4-ynoic acid | COC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C(C(=O)O)(CC#CC1=CC(=CC=C1)N1CCOCC1)N | C28H28N2O6S
